US08440693B2
Intermediate 7.1: 5-Chloro-2-formyl-benzoic acid methyl ester
To a heterogeneous mixture of 5-chloro-2-formyl-benzoic acid (1.0 g, 5.42 mmol) and K2CO3 (1.12 g, 8.13 mmol) in DMF (7 ml) was added MeI (0.41 ml, 6.5 mmol) at RT. The reaction mixture was stirred for 4 h then diluted into Et2O and washed with water (2×). The organic layer was dried over Na2SO4, filtered and evaporated to dryness to yield the crude title compound (700 mg, 3.52 mmol, 65%) as a light yellow solid, which was used without further purification. HPLC: AtRet=1.84 min; LC-MS: m/z 199.3 [M+H]+; 1H NMR (400 MHz, DMSO-d6): 3.91 (s, 3H), 7.84-7.94 (m, 3H), 10.33 (s, 1H).

reactant | 5-chloro-2-formyl-benzoic acid | 5.42 mmol, 1.0 g | ClC=1C=CC(=C(C(=O)O)C1)C=O | C8H5ClO3
reactant | K2CO3 | 8.13 mmol, 1.12 g | C(=O)([O-])[O-].[K+].[K+]
reactant | MeI | 6.5 mmol, 0.41 ml | CI | CH3I
reactant | Et2O | CCOCC | C4H10O
solvent | DMF | 7 ml | CN(C)C=O | C3H7NO
product | 5-Chloro-2-formyl-benzoic acid methyl ester | 3.52 mmol, 700 mg, 65% | COC(C1=C(C=CC(=C1)Cl)C=O)=O | C9H7ClO3
